US07417062B2
Step 4: Biphenyl-3-yl-[3-(2-methyl-piperdin-1-yl)-propyl]-amine.
3-(Biphenyl-3-ylamino)-1-(2-methyl-piperidin-1-yl)-propan-1-one 1 g (3.1 mmol) in 10 mL of tetrahydrofuran was added dropwise to a cold solution of lithium aluminium hydride 0.1 g (3.1 mmol) in 10 mL dry tetrahydrofuran. The mixture was stirred for 5 hour then was quenched with saturated solution of sodium sulfate. The compound was purified by silica gel chromatography using chloroform-methanol 9:1, yield to 0.2 g of compound.

reactant | 3-(Biphenyl-3-ylamino)-1-(2-methyl-piperidin-1-yl)-propan-1-one | 3.1 mmol, 1 g | C1(=CC(=CC=C1)NCCC(=O)N1C(CCCC1)C)C1=CC=CC=C1 | C21H26N2O
reactant | lithium aluminium hydride | 3.1 mmol, 0.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | Biphenyl-3-yl-[3-(2-methyl-piperdin-1-yl)-propyl]-amine | 0.2 g | C1(=CC(=CC=C1)NCCCN1C(CCCC1)C)C1=CC=CC=C1 | C21H28N2
